US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(2-fluorophenyl)-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 38)
A solution of 1.00 g of trichloromethyl chloroformate in 20 ml of benzene was added dropwise to a solution of 1.23 g of 1,3,5-tris(2-fluorophenyl)-hexahydro-s-triazine in 30 ml of tetrahydrofuran at room temperatue with stirring in a nitrogen stream. The reaction solution was stirred at room temperature for 1 hour. Then, 3.16 g of 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea was added with stirring at room temperature, and subsequently, 1.5 ml of triethylamine was added. The mixture was stirred at room temperature for 6 hours. Water (50 ml) was added to the reaction mixture, and it was extracted with 200 ml of ethyl acetate. The ethyl acetate solution was washed with water and dried. Under reduced pressure, ethyl acetate was evaporated. The resulting oily product was purified by column chromatography silica gel; eluent: hexane/ethyl acetate (10/1)) to give 0.20 g of the captioned compound.

reactant | trichloromethyl chloroformate | 1.00 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 1,3,5-tris(2-fluorophenyl)-hexahydro-s-triazine | 1.23 g | FC1=C(C=CC=C1)N1CN(CN(C1)C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C21H18F3N3
reactant | 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 3.16 g | FC(C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1)(F)F | C11H10F6N2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | 50 ml | O | H2O
product | 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(2-fluorophenyl)-tetrahydro-1,3,5-thiadiazin-4-one | 0.20 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(F)(F)F)=O)C1=C(C=CC=C1)F)(F)F | C19H14F7N3OS
